US03953508
0.01 mole (1.09 g) of paraaminophenol is dissolved in 100 cm3 of a 0.1 N NaOH solution. A second solution of 0.01 mole (1.23 g) of 5-amino-2-methyl phenol in 100 cm3 of a 0.1N NaOH solution is also prepared. The two solutions are then mixed and air is bubbled in the resulting mixture for about 5 hours at ambient temperature. The reaction medium is then acidified with sufficient HCl to pH 5 to produce 1.2 g of said indophenol which is then filtered off and which, after recrystallization from a dimethylformamide-water mixture, melts at 215°.

reactant | paraaminophenol | 0.01 mole, 1.09 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 5-amino-2-methyl phenol | 0.01 mole, 1.23 g | NC=1C=CC(=C(C1)O)C | C7H9NO
solvent | NaOH | 0.1 N | [OH-].[Na+]
solvent | NaOH | 0.1N | [OH-].[Na+]
product | indophenol | 1.2 g | C1=CC(=O)C=CC1=NC2=CC=C(C=C2)O | C12H9NO2
